US09428509B2
2-Chloro-5-(1-methyl-1H-pyrazol-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine
To a degassed mixture of 2-chloro-5-iodo-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.1 equiv) and potassium phosphate tribasic trihydrate (3 equiv) in a 10:1 mixture of 1,4-dioxane and water (0.09 M)) was added palladium 1,1-bis(diphenylphosphion)ferrocene dichloride (0.2 equiv). The mixture was stirred at 110° C. for 2 h. The suspension was cooled to room temperature and filtered. The filtrate was concentrated and the residue obtained was purified by silica gel chromatography (20% ethyl acetate in petroleum ether) to afford the title compound (88% yield). MS (ESI) m/z=464.1 [M+1]+.

reactant | 2-chloro-5-iodo-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)OC2CCOCC2 | C17H25ClIN3O3Si
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.1 equiv | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 0.09 M | O | H2O
product | 2-Chloro-5-(1-methyl-1H-pyrazol-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 88% yield | ClC=1N=C(C2=C(N1)N(C=C2C=2C=NN(C2)C)COCC[Si](C)(C)C)OC2CCOCC2 | C21H30ClN5O3Si
